US04689069
4-(2-Amino-4-methylpyrimidin-4-yl)-3-butyne-2-ol
A mixture of 10.0 g of 2-amino-4-chloro-6-methylpyrimidine, 8.8 ml of 2-methyl-3-butyn-2-ol, 400 ml of tetrahydrofuran (THF), 0.06 g of copper (I) iodide, 0.5 g of bis(triphenylphosphine)palladium (II) chloride and 20.4 ml of triethylamine was heated overnight at reflux under a nitrogen atmosphere. The reaction mixture was allowed to cool. It was then partitioned between 200 ml of ethyl acetate and 100 ml of sodium bicarbonate. The organic layer was washed successively with 100 ml of water and 100 ml of brine. The organic layer was dried (MgSO4), filtered and concentrated under reduced pressure. The residue was placed on a silica gel dry column and eluted with dichloromethane/ethyl acetate/THF (10:90:0.1). The product band was extracted with THF. The organic extract was concentrated. Trituration of the residue (butyl chloride) gave 4.44 g of the title compound as a solid, m.p. 155°; PMR (90 MHz, CDCl3) δ1.65(s, 6H, CH3), 2.3(s, CH3, 3H), 2.8(s, OH, 1H), 5.2(bs, 2H, NH2), 6.6(s, Het-H, 1H); IR(nujol) 2221(w, C≡C) cm-1.

reactant | 2-amino-4-chloro-6-methylpyrimidine | 10.0 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | 2-methyl-3-butyn-2-ol | 8.8 ml | CC(C)(C#C)O | C5H8O
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
catalyst | copper (I) iodide | 0.06 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | triethylamine | 20.4 ml | C(C)N(CC)CC | C6H15N
product | 4-(2-Amino-4-methylpyrimidin-4-yl)-3-butyne-2-ol | 4.44 g | NC1=NC=CC(N1)(C)C#CC(C)O | C9H13N3O
